US04436889
Using the equipment and the procedure described for Example 1, an experiment was carried out on a charge comprising 25 ml (232 mmols) of benzyl alcohol, 15 ml of acetic acid, 161 mmols of methyl iodide, 8 mg atoms of nickel in the form of nickel acetate tetrahydrate and 40 mg atoms of vanadium in the form of vanadyl bis-acetylacetonate. The reaction temperature was 180° C.; the total pressure was maintained at 60 bars by introduction of additional amounts of pure CO. In a reaction time of 1 hour, 30 minutes at the temperature indicated, 15.8 g of phenylacetic acid were obtained (RY=48%).

reactant | benzyl alcohol | 232 mmols, 25 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | methyl iodide | 161 mmols | CI | CH3I
reactant | acetylacetonate | C/C(=C/C(=O)C)/[O-]
reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
catalyst | nickel | [Ni] | Ni
catalyst | nickel acetate tetrahydrate | O.O.O.O.C(C)(=O)[O-].[Ni+2].C(C)(=O)[O-]
catalyst | vanadium | [V] | V
catalyst | vanadyl | [O-][V](=O)([O-])[O-].[Na+].[Na+].[Na+]
product | phenylacetic acid | 15.8 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
